US07470710B2
Description 16: (RS)(1-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-piperidin-2-yl)-acetic acid methyl ester
A stirring solution of 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (3.00 g, 12.5 mmol) in DMF (50 ml), under argon was treated sequentially with N,N-diisopropylethylamine (6.8 ml), HATU (4.77 g, 12.5 mmol) then after stirring for 0.25 h, piperidin-2-yl-acetic acid methyl ester (Beckett et al, J. Med. Chem., 563,1969) (1.83 g, 12.5 mmol) was added. The mixture was stirred for 16 h at room temperature and was then diluted with water. The product was extracted into diethyl ether. The organic phase was washed with water (3×) and brine, was dried (MgSO4) and the solvent removed in vacuo to afford the title compound as a yellow gum (4.00 g, 85%).

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | 12.5 mmol, 3.00 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
reactant | N,N-diisopropylethylamine | 6.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 12.5 mmol, 4.77 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | piperidin-2-yl-acetic acid methyl ester | 12.5 mmol, 1.83 g | COC(CC1NCCCC1)=O | C8H15NO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (RS)(1-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-piperidin-2-yl)-acetic acid methyl ester | 4.00 g, 85% | COC(CC1N(CCCC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)=O | C19H21FN2O3S
